US06420359B1
To a solution of 2-nitroacetamide ammonium salt (4 g, 33 mmol) in water (165 mL) was added piperidinium acetate (33 mmol) in water followed by slow addition of 4-ethoxy-1,1,1-trifluoro-3-buten-2-one (6.1 mL, 43 mmol) in MeOH (11 mL). The reaction was stirred for 2 h at room temperature and at reflux for 3 h. The reaction mixture was allowed to cool to 45° C. and aqueous HCl (1N) was added until the pH was acidic. After 1 h at room temperature, the reaction mixture was extracted with CH2Cl2 (3×). The combined organic layer was successively washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc, then EtOAC:MeOH, 9:1) to give 3-nitro-6-(trifluoromethyl)-2(1H)-pyridinone (2.7 g, 40% yield) as a yellow solid.

reactant | 2-nitroacetamide ammonium salt | 33 mmol, 4 g | [NH4+].[N+](=O)([O-])CC(=O)[NH-]
reactant | piperidinium acetate | 33 mmol | C(C)(=O)[O-].[NH2+]1CCCCC1
reactant | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | 43 mmol, 6.1 mL | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | HCl | 1N | Cl | ClH
solvent | water | 165 mL | O | H2O
solvent | MeOH | 11 mL | CO | CH4O
product | 3-nitro-6-(trifluoromethyl)-2(1H)-pyridinone | 2.7 g, 40% yield | [N+](=O)([O-])C=1C(NC(=CC1)C(F)(F)F)=O | C6H3F3N2O3
